US04620870
7-Chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide
A suspension of 17.9 g of 7-chloro-1,2-benziso-thiazole-1,1-dioxide in 180 ml of absolute ethanol was cooled to 0° C. and treated with 3.33 g of sodium borohydride at such a rate that the temperature remained below 5° C. The mixture was warmed to room temperature for 30 minutes, recooled to 0° C. and treated with glacial acetic acid to destroy excess hydride. The mixture was concentrated to dryness, the resulting solid suspended in water, filtered, washed with water and dried in vacuo at 50° C. for 16 hours to give 17.6 g of the title compound as a white powder, m.p. 159°-161° C.

reactant | 7-chloro-1,2-benziso-thiazole-1,1-dioxide | 17.9 g | ClC1=CC=CC=2C=NS(C21)(=O)=O | C7H4ClNO2S
reactant | sodium borohydride | 3.33 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 7-Chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 17.6 g | ClC1=CC=CC=2CNS(C21)(=O)=O | C7H6ClNO2S
